US08492405B2
To a mixture of 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (0.35 g), 2-(tritylthio)ethaneamine hydrochloride (0.43 g), 1H-1,2,3-benzotriazol-1-ol (0.19 g), triethylamine (0.2 mL) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.23 g), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give a colorless oil. To a solution of triphenylphosphine oxide (0.83 g) in dichloromethane (20 mL) was slowly added trifluoromethanesulfonic anhydride (0.25 mL) at 0° C., the mixture was stirred for 10 min. The colorless oil was added to the mixture and the mixture was stirred at room temperature for 3 hr and concentrated. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give N-[5-(4,5-dihydro-1,3-thiazol-2-yl)-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl]-N-methylthiophene-2-sulfonamide (111 mg, yield 29%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:20→1:1, volume ratio). melting point 140° C.

reactant | 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 0.35 g | CC1=C(C=2NC(=CC2S1)C(=O)O)N(S(=O)(=O)C=1SC=CC1)C | C13H12N2O4S3
reactant | 2-(tritylthio)ethaneamine hydrochloride | 0.43 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.19 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.23 g | Cl.CN(CCCN=C=NCC)C
reactant | triphenylphosphine oxide | 0.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.25 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | N-[5-(4,5-dihydro-1,3-thiazol-2-yl)-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl]-N-methylthiophene-2-sulfonamide | 111 mg, yield 29% | S1C(=NCC1)C1=CC2=C(N1)C(=C(S2)C)N(S(=O)(=O)C=2SC=CC2)C | C15H15N3O2S4
